US05288776
Preparation of 2,4-diphenyl-3-benzoylpyrrole
With stirring, 3.0 g of 2-phenylazirine are added dropwise to a solution of 5.6 g of dibenzoylmethane, 10 ml of acetone and 0.1 g of nickel acetylacetonate at 50° C. The mixture is then heated at reflux for 30 minutes, cooled to 20° C., and 25 ml of water are added. The precipitated crystals are filtered with suction, washed with water, and dried to constant weight.

reactant | 2-phenylazirine | 3.0 g | C1(=CC=CC=C1)C=1NC1 | C8H7N
reactant | dibenzoylmethane | 5.6 g | C(C1=CC=CC=C1)(=O)CC(C1=CC=CC=C1)=O | C15H12O2
reactant | acetone | 10 ml | CC(=O)C | C3H6O
catalyst | nickel acetylacetonate | 0.1 g | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Ni+2]
solvent | water | 25 ml | O | H2O
product | 2,4-diphenyl-3-benzoylpyrrole | C1(=CC=CC=C1)C=1NC=C(C1C(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C23H17NO
